US07608631B2
Preparation of 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-5-isopropylsulfanyl-1H-tetrazole
900 mg of 3,5-dichloro-4-{3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propoxy}-phenol, 720 mg of 1,1,1,3-tetrachloropropane, 691 mg of potassium carbonate and 10 mg of potassium iodide are stirred for 48 hours at 60° C. in 30 ml of acetone. The reaction mixture is filtered and the filtrate is concentrated. Purification over silica gel yields the title compound (compound 1.20).

reactant | 3,5-dichloro-4-{3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propoxy}-phenol | 900 mg | ClC=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)N1N=NN=C1SC(C)C)Cl)O | C19H20Cl2N4O3S
reactant | 1,1,1,3-tetrachloropropane | 720 mg | ClC(CCCl)(Cl)Cl | C3H4Cl4
reactant | potassium carbonate | 691 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 10 mg | [I-].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-5-isopropylsulfanyl-1H-tetrazole | ClC1=C(OCCCOC2=CC=C(C=C2)N2N=NN=C2SC(C)C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C22H22Cl4N4O3S
